US07691882B2
3-(3-(4-(Pyridin-2-yloxymethyl)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a solution of (4-(pyridin-2-yloxymethyl)-phenyl)-acetohydroximoyl chloride (510 mg, 1.84 mmol) described in Manufacturing Example 2-1-5 and 3-ethynyl-pyridin-2-ylamine (150 mg, 1.27 mmol) described in Manufacturing Example 1-2-3 in tetrahydrofuran (5 mL) was added triethylamine (708 μL, 5.08 mmol) at room temperature, which was stirred for 95 minutes at room temperature. Water was added at room temperature to the reaction solution, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=2:1) to obtain the title compound (120 mg, 26%).

reactant | (4-(pyridin-2-yloxymethyl)-phenyl)-acetohydroximoyl chloride | 1.84 mmol, 510 mg | N1=C(C=CC=C1)OCC1=CC=C(C=C1)CC(=NO)Cl | C14H13ClN2O2
reactant | 3-ethynyl-pyridin-2-ylamine | 1.27 mmol, 150 mg | C(#C)C=1C(=NC=CC1)N | C7H6N2
reactant | triethylamine | 5.08 mmol, 708 μL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-(3-(4-(Pyridin-2-yloxymethyl)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 120 mg, 26% | N1=C(C=CC=C1)OCC1=CC=C(CC2=NOC(=C2)C=2C(=NC=CC2)N)C=C1 | C21H18N4O2
